US08084448B2
E. 4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile
A mixture of 4-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile (25 mg) and Pd(OH)2 (25 mg) in EtOAc (5 mL) is hydrogenated at 1 atm for 6 h. The catalyst is filtered and the filtrate evaporated. The residue is purified by preparative HPLC to give the title compound: (M−1)−=322.

reactant | 4-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile | 25 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CC(CC#N)(C)C | C21H23N3O4S
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2 | 25 mg | [OH-].[OH-].[Pd+2]
product | 4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-3,3-dimethylbutyronitrile | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CC(CC#N)(C)C | C14H17N3O4S
